US07132436B2
N-[4-(5-chloro-2-thienyl)-1,3-thiazol-2-yl]-4-propylbenzenesulfonamide
The title compound was prepared from 4-(5-chloro-2-thienyl)-1,3-thiazol-2-amine and 4-n-propylbenzenesulfonyl chloride as described in the synthetic METHOD B to give a brown solid (16.4 mg) with purity >80%. MS (pos) m/z 399.2.

reactant | 4-(5-chloro-2-thienyl)-1,3-thiazol-2-amine | ClC1=CC=C(S1)C=1N=C(SC1)N | C7H5ClN2S2
reactant | 4-n-propylbenzenesulfonyl chloride | C(CC)C1=CC=C(C=C1)S(=O)(=O)Cl | C9H11ClO2S
product | N-[4-(5-chloro-2-thienyl)-1,3-thiazol-2-yl]-4-propylbenzenesulfonamide | ClC1=CC=C(S1)C=1N=C(SC1)NS(=O)(=O)C1=CC=C(C=C1)CCC | C16H15ClN2O2S3
